US04418065
3-Chloro-1-(4-chlorophenyl)-1-(3-pyridyl)-1-propene
A solution of crude 1-(4-chlorophenyl)-1-(3-pyridyl)-2-propen-1-ol (40 mmol) in 100 ml methylene chloride was added dropwise to a suspension of phosphorus pentachloride (12.4 g, 60 mmol) at 10° C. After stirring for 1 h at room temperature the solution was washed with 50 ml water at 0° to 10° C. The solution of the crude title compound was used in the following aminations, i.e. Example 2 and 3.

reactant | 1-(4-chlorophenyl)-1-(3-pyridyl)-2-propen-1-ol | 40 mmol | ClC1=CC=C(C=C1)C(C=C)(O)C=1C=NC=CC1 | C14H12ClNO
reactant | phosphorus pentachloride | 60 mmol, 12.4 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 3-Chloro-1-(4-chlorophenyl)-1-(3-pyridyl)-1-propene | ClCC=C(C=1C=NC=CC1)C1=CC=C(C=C1)Cl | C14H11Cl2N
